US06656942B2
3-Iodo-1H-quinolin-2-one (3-5)
The 2-chloro-3-iodoquinoline (30.0 g) was weighed into a 250 mL flask and suspended in of 50% aqueous acetic acid (125 mL). The mixture was heated to 100 C and allowed to reflux for 16 h to completion by TLC analysis of the crude reaction mixture. The mixture was allowed to cool to ambient temperature followed by dilution with 200 mL of water. The resulting a suspension of the desired product was isolated by vacuum filtration follows by washing with water (50 mL). The water and traces of acetic acid were removed under vacuum for 5 h to afford the desired quinolinone as a tan powder (5-5, 26.5 g, 94%); 1H NMR (500 MHz, CDCl3) δ 12.13 (br s, 1H), 8.71 (s, 1H), 7.65 (d, 1H, J=7.5 Hz), 7.54 (m, 1H), 7.31 (d, 1H, J=8.0 Hz), 7.20 (m, 1H).

reactant | 2-chloro-3-iodoquinoline | 30.0 g | ClC1=NC2=CC=CC=C2C=C1I | C9H5ClIN
reactant | acetic acid | 125 mL | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
product | 3-Iodo-1H-quinolin-2-one | IC=1C(NC2=CC=CC=C2C1)=O | C9H6INO
